US09102671B2
To a solution of 1-bromo-2-(trifluoromethyl)benzene (0.27 mL, 2.0 mmol) in THF (5 mL) at −78° C. was added nBuLi (0.72 mL of a 2.8 M solution in Hexane, 2.0 mmol). The reaction was stirred at −78° C. for 15 minutes then added to a solution of tert-butyl 2-oxopyrrolidine-1-carboxylate (0.33 mL, 2.0 mmol) in THF (5 mL) at −78° C. The reaction was stirred to room temperature over 1 hour, quenched with saturated aqueous ammonium chloride and diluted with EtOAc. The organic layer was separated, dried over magnesium sulfate, filtered and reduced to dryness to afford tert-butyl 2-hydroxy-2-(2-(trifluoromethyl)phenyl)pyrrolidine-1-carboxylate (I-27) as a clear oil. MS m/z 276.1 (M−55)+.

reactant | 1-bromo-2-(trifluoromethyl)benzene | 2.0 mmol, 0.27 mL | BrC1=C(C=CC=C1)C(F)(F)F | C7H4BrF3
reactant | nBuLi | [Li]CCCC
reactant | tert-butyl 2-oxopyrrolidine-1-carboxylate | 2.0 mmol, 0.33 mL | O=C1N(CCC1)C(=O)OC(C)(C)C | C9H15NO3
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | Hexane | CCCCCC | C6H14
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | tert-butyl 2-hydroxy-2-(2-(trifluoromethyl)phenyl)pyrrolidine-1-carboxylate | OC1(N(CCC1)C(=O)OC(C)(C)C)C1=C(C=CC=C1)C(F)(F)F | C16H20F3NO3
